US04371720
4-(3-Butenyl)-2-cyclohexen-1-one
To a 0° C. slurry of 1.06 g. (26 mmoles) of lithium aluminum hydride in 75 ml. of ether was added a solution of 10 g. (51 mmoles) of 6-(3-butenyl)-3-ethoxy-2cyclohexen-1-one in 25 ml. of ether. After stirring for one hour, the reaction was quenched by addition of 100 ml. of 2 N hydrochloric acid. The quenched mixture was stirred for 30 minutes and then extracted with 300 ml. of ether. The ether extract was washed with 250 ml. saturated sodium bicarbonate, dried over magnesium sulfate and evaporated on a rotovapor. Distillation of the crude oil gave 5.98 g. (78%) of the title product.

reactant | lithium aluminum hydride | 26 mmoles | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(3-butenyl)-3-ethoxy-2cyclohexen-1-one | 51 mmoles | C(CC=C)C1CCC(=CC1=O)OCC | C12H18O2
solvent | ether | CCOCC | C4H10O
product | 4-(3-Butenyl)-2-cyclohexen-1-one | 78% | C(CC=C)C1C=CC(CC1)=O | C10H14O
